### PR TITLE
chore: adaptations for mathlib adele refactor

### PR DESCRIPTION
**Pull request by kbuzzard**
My proposed adele refactor https://github.com/leanprover-community/mathlib4/pull/23542 does some damage to the repo and means that we need to find a slightly different route for A_K tensor L = A_L . This PR picks up the pieces.

### CODE REVIEW

File: FLT/NumberField/AdeleRing.lean [hunk 1]
```diff
@@ -167,19 +167,7 @@ theorem Rat.AdeleRing.zero_discrete : ∃ U : Set (AdeleRing (𝓞 ℚ) ℚ),
...
-      exact integralAdeles'.isOpen
-    ext x
-    simp only [← FiniteAdeleRing.exists_finiteIntegralAdele_iff, FiniteAdeleRing.ext_iff,
-      SetCoe.ext_iff, Set.mem_setOf_eq, RingSubgroupsBasis.openAddSubgroup, Submonoid.one_def,
-      map_one, SetLike.mem_coe, ← OpenAddSubgroup.mem_toAddSubgroup, Submodule.mem_toAddSubgroup,
-      Submodule.mem_span_singleton, Algebra.smul_def', mul_one, integralAdeles, integralAdeles']
-    apply exists_congr
-    intro a
-    exact eq_comm
+    sorry
```
Comment (matthewjasper) [inline FLT/NumberField/AdeleRing.lean:170]:
```suggestion
    exact RestrictedProduct.isOpen_forall_mem fun v ↦ Valued.integer_isOpen _
```

Comment (kbuzzard) [reply FLT/NumberField/AdeleRing.lean:170]: Thanks a lot!
